US06028192
Under a stream of nitrogen, 200 g of ε-caprolactam are introduced into a 1 l four-necked flask fitted with stirrer and thermometer and melted. 226 g of N,N-diisopropyl-N-ethylamine (Hunig base) and 250 g of benzoyl chloride are then added dropwise simultaneously over the course of 2 hours, with stirring. The temperature is maintained initially at 90° C.and then increased further to 110° C. When the reaction is complete, the melt, at 80° C., is introduced into 350 ml of water at room temperature and stirred. After one hour, the precipitated benzoylcaprolactam is filtered off and dried. The N-benzoylcaprolactam is obtained in a yield of 95% and a purity of >99% by GC. The Hunig base is worked up as in Example 1. The precipitated N,N-diisopropyl-N-ethylamine (water content: 0.13%) can again be reused without further purification.

reactant | ε-caprolactam | 200 g | C1(CCCCCN1)=O | C6H11NO
reactant | N,N-diisopropyl-N-ethylamine | 226 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzoyl chloride | 250 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | water | 350 ml | O | H2O
product | N-benzoylcaprolactam | yield of 95% | C(C1=CC=CC=C1)(=O)N1C(CCCCC1)=O | C13H15NO2
